US09340528B2
Step B: Preparation of N-benzyl-4-[3-(morpholin-4-yl)quinoxalin-6-yl]-2-nitroaniline
Benzylamine (336 mg, 3.1 mmol) and potassium carbonate (865 mg, 6.2 mmol) were added to a solution of 7-(4-fluoro-3-nitrophenyl)-2-(morpholin-4-yl)quinoxalin (1.1 g, 3.1 mmol) in DMF (100 mL). The mixture was stirred 24 h at room temperature and then diluted with EtOAc. The organic phase was washed with water and saturated aqueous sodium chloride solution, then dried over sodium sulphate. After filtration and subsequent removal of solvent, the residue was purified by chromatography (silica gel, Hexane/EtOAc: 20%->100% EtOAc) giving rise to 1.29 g (93%) of the desired product.

reactant | Benzylamine | 3.1 mmol, 336 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | potassium carbonate | 6.2 mmol, 865 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 7-(4-fluoro-3-nitrophenyl)-2-(morpholin-4-yl)quinoxalin | 3.1 mmol, 1.1 g | FC1=C(C=C(C=C1)C1=CC=C2N=CC(=NC2=C1)N1CCOCC1)[N+](=O)[O-] | C18H15FN4O3
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-benzyl-4-[3-(morpholin-4-yl)quinoxalin-6-yl]-2-nitroaniline | 1.29 g, 93% | C(C1=CC=CC=C1)NC1=C(C=C(C=C1)C=1C=C2N=C(C=NC2=CC1)N1CCOCC1)[N+](=O)[O-] | C25H23N5O3
